US09445594B2
Preparation of 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzonitrile (C30)
In a 250 mL flask, 3-(4-bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (4.00 g, 10.4 mmol) was dissolved in N,N-dimethylformamide (30 mL) under nitrogen atmosphere. Zinc cyanide (1.46 g, 12.4 mmol) and tetrakis(triphenylphosphine) palladium(0) (0.601 g, 0.0500 mmol) were added and the reaction mixture was heated to 110° C. for 16 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate and washed with water. The aqueous layer was further extracted with ethyl acetate. The combined organics were washed with water and brine, dried over magnesium sulfate and concentrated. Purification by flash column chromatography eluting with 30% ethyl acetate/hexanes gave the title compound as off-white solid (3.40 g, 94%): mp 172-176° C.; 1H NMR (400 MHz, CDCl3): δ 8.60 (s, 1H), 8.31 (d, J=8.8 Hz, 2H), 7.81 (d, J=8.8 Hz, 2H), 7.77 (d, J=8.8 Hz, 2H), 7.41 (d, J=8.8 Hz, 2H); ES+API m/z 331 ([M+H]+).

reactant | 3-(4-bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 10.4 mmol, 4.00 g | BrC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C15H9BrF3N3O
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Zinc cyanide | 12.4 mmol, 1.46 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.0500 mmol, 0.601 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzonitrile | 3.40 g, 94% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C#N)C=C1)(F)F | C16H9F3N4O
